US06162937
A mixture of dibenzofulvene (1 g, 5.68 mmol), fluorene (0.93 g, 5.68 mmol) and EtONa (0.19 g, 2.79 mmol) in DMSO (20 mL) was heated at 90° C. for 16 hours, and was then cooled to room temperature. After carrying out the work-up, as reported in Example 8, 0.55 g of bis(9-fluorenyl)methane were obtained, with a yield of 28%.

reactant | dibenzofulvene | 5.68 mmol, 1 g | C=C1C2=CC=CC=C2C3=CC=CC=C13 | C14H10
reactant | fluorene | 5.68 mmol, 0.93 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | EtONa | 2.79 mmol, 0.19 g | CC[O-].[Na+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | bis(9-fluorenyl)methane | 0.55 g, yield of 28% | C1=CC=CC=2C3=CC=CC=C3C(C12)CC1C2=CC=CC=C2C=2C=CC=CC12 | C27H20
